US06967208B2
3-Acetyl-1-(4-methoxy-phenyl)-6-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one
To 3-bromo-1-(4-methoxy-phenyl)-6-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one (0.11 g, 0.22 mmol) was added THF (25 mL), 1-(ethoxyvinyl)tributyltin (0.078 mL, 0.23 mmol), and LiCl (27 mg, 0.65 mmol) and the mixture was degassed with N2 for 15 min. Tetrakistriphenylphosphine Palladium(0) (12 mg, 0.01 mmol) was added and the reaction was heated to reflux 24 h. The reaction was cooled to rt and treated with 1N HCl for 24 h. After extraction with EtOAc and drying (MgSO4), the product was purified by silica gel (mixed with KF) chromatography using 0-3% MeOH in CH2Cl2 and by HPLC to afford 6 mg (6%); High Resolution Mass Spec (M+H)+ for C26H23N4O4 455.1713.

reactant | 3-bromo-1-(4-methoxy-phenyl)-6-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | 0.22 mmol, 0.11 g | BrC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)N2C(C=CC=C2)=O)=O)C2=CC=C(C=C2)OC | C24H19BrN4O3
reactant | LiCl | 0.65 mmol, 27 mg | [Li+].[Cl-]
reactant | HCl | 1N | Cl | ClH
reactant | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-Acetyl-1-(4-methoxy-phenyl)-6-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | C(C)(=O)C1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)N2C(C=CC=C2)=O)=O)C2=CC=C(C=C2)OC | C26H22N4O4
